*   Library of default models for use with Schematics "breakout" symbols
*
*  Copyright Cadence Design Systems, Inc. 2002 All Rights Reserved.
*
*
* $Revision:   1.2  $
* $Author:   HIRASUNA  $
* $Date:   11 May 2000 13:26:32  $
* Added new models for power_Dbreak, power_Mbreakn : CCMPR00440762
*---------------------------------------------------------------
*
*$
.model Bbreak GASFET
*$
.model Cbreak CAP C=1
*$
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
*$
.model power_Dbreak D Is=1E-12 Cjo=.5pF Rs=.1 N=1 TT=0.1n
*$
.subckt Dbreak3 1 2 3
D1 1 3 Dbreak
D2 2 3 Dbreak
.ends
*$
.model Jbreakn NJF
*$
.model Jbreakp PJF
*$
.model Kbreak CORE AREA=.650 PATH=8.0 MS=1.2896E6 A=2.7128E3 C=.25001 
*$
.model Lbreak IND  L=1
*$
.model Mbreakn NMOS
*$
.model power_Mbreakn NMOS W=1 L=1u LEVEL=3 CBD=1E-9 RDS=1E+06 TT=1n VTO=3.0
+  RD=0.1 RS=10E-3 RG=0.5 CGSO=1E-9 CGDO=100E-12 
*$
.model Mbreakp PMOS
*$
.model MbreaknD NMOS VTO=-4.0
*$
.model MbreakpD PMOS VTO=4.0
*$
.model Qbreakn NPN
*$
.model Qbreakp PNP
*$
.model Qbreakl LPNP
*$
.model QVBICN CMI VBIC npn=1
*$
*fet100 nmos
.model MganN CMI gan TYPE=1
*$
*fet100 pmos
.model MganP CMI gan TYPE=-1

*$
* connections:      Collector
*                   |  Base
*                   |  |  Emitter
*                   |  |  |
.SUBCKT QDarBreakN  1  2  3
*
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 2.893
D1 3 1 Dmodel
R1 2 4 8.000E3
R2 4 3 120
.MODEL Dmodel D
+ IS=10.00E-15 RS=1.000E-3 N=1 XTI=3
+  CJO=10.00E-21 VJ=1 M=.5 FC=.5
.MODEL Q1model NPN
+  IS=98.70E-15 BF=267 NF=1 VAF=100
+  IKF=.3468 ISE=2.100E-12 NE=1.428 BR=.7915
+  NR=1 VAR=100 IKR=1.714 ISC=1.630E-12
+  NC=1.878 RB=1.224 NK=.5
+  RE=0 RC=.1245 EG=1.110
+  CJE=10.00E-12 VJE=.75 MJE=.33 TF=1.000E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=10.00E-12
+  VJC=.75 MJC=.33 XCJC=.9 FC=.5
+  TR=1.000E-9
.MODEL Q2model NPN
+  IS=98.70E-15 BF=267 NF=1 VAF=100
+  IKF=.3468 ISE=2.100E-12 NE=1.428 BR=.7915
+  NR=1 VAR=100 IKR=1.714 ISC=1.630E-12
+  NC=1.878 RB=1.224 NK=.5
+  RE=0 RC=.1245 EG=1.110
+  CJE=10.00E-12 VJE=.75 MJE=.33 TF=1.000E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=0
+  VJC=.75 MJC=.33 XCJC=.9 FC=.5
+  TR=1.000E-9
.ENDS
*$
* connections:      Collector
*                   |  Base
*                   |  |  Emitter
*                   |  |  |
.SUBCKT QDarBreakP  1  2  3
*
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 2.893
D1 1 3 Dmodel
R1 2 4 8.000E3
R2 4 3 120
.MODEL Dmodel D
+ IS=10.00E-15 RS=1.000E-3 N=1 XTI=3
+  CJO=10.00E-21 VJ=1 M=.5 FC=.5
.MODEL Q1model PNP
+  IS=98.70E-15 BF=267 NF=1 VAF=100
+  IKF=.3468 ISE=2.100E-12 NE=1.428 BR=.7915
+  NR=1 VAR=100 IKR=1.714 ISC=1.630E-12
+  NC=1.878 RB=1.224 NK=.5
+  RE=0 RC=.1245 EG=1.110
+  CJE=10.00E-12 VJE=.75 MJE=.33 TF=1.000E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=10.00E-12
+  VJC=.75 MJC=.33 XCJC=.9 FC=.5
+  TR=1.000E-9
.MODEL Q2model PNP
+  IS=98.70E-15 BF=267 NF=1 VAF=100
+  IKF=.3468 ISE=2.100E-12 NE=1.428 BR=.7915
+  NR=1 VAR=100 IKR=1.714 ISC=1.630E-12
+  NC=1.878 RB=1.224 NK=.5
+  RE=0 RC=.1245 EG=1.110
+  CJE=10.00E-12 VJE=.75 MJE=.33 TF=1.000E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=0
+  VJC=.75 MJC=.33 XCJC=.9 FC=.5
+  TR=1.000E-9
.ENDS
*$
.model Rbreak RES R=1
*$
.model Sbreak VSWITCH Roff=1e6 Ron=1.0 Voff=0.0 Von=1.0
*$
.model Wbreak ISWITCH  Ioff=0.0 Ion=1e-3 Roff=1e6 Ron=1.0
* Nonlinear Center-tapped Transformer Models
*$
* Nonlinear Transformer with Center-tapped Primary and Secondary
.subckt XFRM_NONLIN/CT-PRI/SEC 1 2 3 4 5 6 Params: 
+ Lp1_turns=100 
+ Lp2_turns=100 
+ Ls1_turns=100 
+ Ls2_turns=100 
+ Coupling=.99 
+ Rp_value=.25 
+ Rs_value=.25
Lp1 7 2 {Lp1_turns}
Lp2 2 8 {Lp2_turns}
Ls1 9 5 {Ls1_turns}
Ls2 5 10 {Ls2_turns}
Rp1 1 7 {Rp_value/2}
Rp2 8 3 {Rp_value/2}
Rs1 9 4 {Rs_value/2}	
Rs2 10 6 {Rs_value/2}
K1 Lp1 Lp2 Ls1 Ls2 {coupling} TN33_20_11_2P90 
.ends
*$
* Nonlinear Transformer with Center-tapped Primary
.subckt XFRM_NONLIN/CT-PRI 1 2 3 4 6 Params: 
+ Lp1_turns=100 
+ Lp2_turns=100 
+ Ls_turns=200
+ Coupling=.99 
+ Rp_value=.25 
+ Rs_value=.25
Lp1 7 2 {Lp1_turns}
Lp2 2 8 {Lp2_turns}
Ls1 9 5 {Ls_turns/2}
Ls2 5 10 {Ls_turns/2}
Rp1 1 7 {Rp_value/2}
Rp2 8 3 {Rp_value/2}
Rs1 9 4 {Rs_value/2}	
Rs2 10 6 {Rs_value/2}
K1 Lp1 Lp2 Ls1 Ls2 {coupling} TN33_20_11_2P90 
.ends
*$
* Nonlinear Transformer with Center-tapped Secondary
.subckt XFRM_NONLIN/CT-SEC 1 3 4 5 6 Params: 
+ Lp_turns=200 
+ Ls1_turns=100 
+ Ls2_turns=100 
+ Coupling=.99 
+ Rp_value=.25 
+ Rs_value=.25
Lp1 7 2 {Lp_turns/2}
Lp2 2 8 {Lp_turns/2}
Ls1 9 5 {Ls1_turns}
Ls2 5 10 {Ls2_turns}
Rp1 1 7 {Rp_value/2}
Rp2 8 3 {Rp_value/2}
Rs1 9 4 {Rs_value/2}	
Rs2 10 6 {Rs_value/2}
K1 Lp1 Lp2 Ls1 Ls2 {coupling} TN33_20_11_2P90 
.ends
*$
* end of Nonlinear center-tapped transformer models
.model Zbreakn NIGBT
*$
.subckt ADC8Break IN REF GND CNVRT STAT OVR
+                 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                 OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                 PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 ADC(8)  DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC8TIM IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL  ADC8TIM UADC 
.ENDS
*$
.subckt ADC10Break IN REF GND CNVRT STAT OVR
+                  DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 ADC(10) DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC10_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL  ADC10_TIMING UADC 
.ENDS
*$
.subckt ADC12Break IN REF GND CNVRT STAT OVR
+                  DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 ADC(12) DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC12_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL  ADC12_TIMING UADC 
.ENDS
*$
.subckt DAC8Break OUT REF GND
+                 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                 OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                 PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 DAC(8) DPWR DGND OUT REF GND
+         DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+         DAC8_TIMING IO_STD
+         MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL DAC8_TIMING UDAC
.ENDS
*$
.subckt DAC10Break OUT REF GND
+                  DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 DAC(10) DPWR DGND OUT REF GND
+          DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          DAC10_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL DAC10_TIMING UDAC
.ENDS
*$
.subckt DAC12Break OUT REF GND 
+                  DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 DAC(12) DPWR DGND OUT REF GND
+          DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          DAC12_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL DAC12_TIMING UDAC
.ENDS
*$
.SUBCKT ROM32Kx8Break A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                     OEbar O7 O6 O5 O4 O3 O2 O1 O0 
+                     OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                     PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 ROM(15,8) DPWR DGND OE
+            A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            O7 O6 O5 O4 O3 O2 O1 O0
+            ROM_TIMING
+            IO_STD   
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=
U2 INV DPWR DGND OEbar OE
+            INV_TIMING IO_STD
.MODEL ROM_TIMING UROM
.MODEL INV_TIMING UGATE
.ENDS
*$
.SUBCKT RAM8Kx8Break RE WE
+                    A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                    W7 W6 W5 W4 W3W W2 W1 W0
+                    R7 R6 R5 R4 R3 R2 R1 R0
+                    OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                    PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 RAM(13,8) DPWR DGND RE WE 
+            A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            W7 W6 W5 W4 W3W W2 W1 W0
+            R7 R6 R5 R4 R3 R2 R1 R0
+            RAM8Kx8_TIMING IO_STD
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=
.MODEL 	RAM8Kx8_TIMING URAM
.ENDS
*$
.SUBCKT RAM8Kx1Break RE WE
+                    A15 A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                    D_IN D_OUT
+                    OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                    PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 RAM(16,1) DPWR DGND RE WE 
+            A15 A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            D_IN D_OUT
+            RAM8Kx1_TIMING IO_STD
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=
.MODEL 	RAM8Kx1_TIMING URAM
.ENDS
*$
.SUBCKT POT 1 T 2 PARAMS: VALUE=1K SET=0.5
RT 1 T {VALUE*(1-SET)+.001}
RB T 2 {VALUE*SET+.001}
.ENDS
*$
* TOM 3 break Out Model
.Subckt Bbreak_TOM3 DRAIN GATE SOURCE 
C1 n5  n3  1.0e-12
R1 n1  n5  1.0e7
E1 n4  n2  VALUE={ 0.033*ABS(V(n5,n3))}
B1 n1  n2 n3 DLM 3
RD DRAIN  n1  230 
RS SOURCE n3  12
RG GATE   n4  250
D1 n4 n1  Dg 3
D2 n4 n3  Dg 3
.model dg d (Is=15.0e-15 n=1.25 XTI=2.50 Eg=.9)
.Model DLM Gasfet (Level=6)
.ends Bbreak_TOM3
*simple switched GTO Model 
*$
.subckt gto a k g params:  onresistance    =0.1ohm
+ oninductance     =1uh						
+ VGT=4							;gate trigger voltage
+ FWDROP       =0.5v					;fwd voltage dc drop
+ td= 10u						; turn on delay
+ vbrk=500						; fwd breakdown voltage
+ tgq=10u						; turn off time
+ vrrm=500						; rev breakdown voltage
D_D3         N20978 N00652 DbreakGTO 
L_L1         N2 N4  {oninductance}  
C_C6         0 VBRK_LTCH  10u IC=0 TC=0,0 
E_E1         N28477 0 VALUE { V(N28544, 0) }
R_R8         N19826 NCTRL  {TD*1E3} TC=0,0 
R_R19         N20978 NCTRL  {TGQ*1E3*20} TC=0,0 
R_R20         N28477 VBRK_LTCH  1 TC=0,0 
E_SUM2         N28544 0 VALUE {V(VBRK_LTCH)+V(N18070)}
*X_S2    NCTRL 0 A N2 GTO_IMP_S2 
S_S2    A N2 NCTRL 0 _S2 
D_D1         N16552 A DbreakGTO 
D_D2         N00652 N19826 DbreakGTO 
E_ABM4         N18070 0 VALUE { IF ( (V(a,k) > {VBRK} ),10.0,0.0)    }
V_V3         N4 K {FWDROP}
C_C1         0 NCTRL  180u  TC=0,0 
E_ABM1         N00652 0 VALUE { IF(((V(g,k) > {VGT}  & V(a,k) > 0.0) 
+ | (V(VBRK_LTCH) > 5 )| (V(VRBRK_LTCH) > 5 )),11,0.0)   }
*X_S3    VRBRK_LTCH 0 N16552 K GTO_IMP_S3 
S3    N16552 K VRBRK_LTCH 0 _S3
E_ABM5         N32615 0 VALUE { IF ( (V(k,a) > {VRRM} ),10.0,0.0)    }
R_R21         N32452 VRBRK_LTCH  1 TC=0,0 
E_E2         N32452 0 VALUE { V(N32476, 0) }
E_SUM3         N32476 0 VALUE {V(VRBRK_LTCH)+V(N32615)}
C_C7         0 VRBRK_LTCH  10u IC=0 TC=0,0 
*.PARAM  td=20u vbrk=500 tgq=10u vrrm=500 vgt=5
.model DbreakGTO D Is=1e-14 Cjo=.01pF Rs=.01 tt=1u
.MODEL _S2 VSWITCH Roff=10Meg Ron={onresistance} VH=0.55 VT=9.25 TD=0
.MODEL _S3 VSWITCH Roff=10Meg Ron={onresistance} VH=0.55 VT=9.25 TD=0
.ends
*$
* PSpice Model Editor - Version 
*DEVICE TYPE: SCMITT
*DEVICE NAME:SCHMITT
*PORT_ORDER:	"IN1" "IN2"	"OUT"
.SUBCKT schmit i1 i2 STURR
+ params:
+ vt1=2V
+ vh1=1V
+ trise=100p
+
X_S1    i1 i2 SIG STURR SCHEMATIC2_S1 PARAMS:
+ vt1={vt1}
+ vh1={vh1}
I_I2         i2 SIG 2m
R_R3		 i2 SIG 1k
R_R1         STURR i2 1k  
C_C1         STURR i2 {trise/10000}
.ENDS schmit
*$
*DEVICE TYPE: xxx
.subckt SCHEMATIC2_S1 1 2 3 4  
+params:
+ vt1=2
+ vh1=1
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=1m VH={vh1} VT={vt1} TD=0
.ends SCHEMATIC2_S1
*$
